US07504508B2
Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}phenoxy)-2-(diethylamino)butanoate was hydrolyzed to the acid by dissolving in 6 ml tetrahydrofuran/methanol (1/1) and potassium hydroxide (0.04 g in 2 ml water) was added. The mixture was heated to 50° C. for 18 hours. The mixture was cooled to room temperature and concentrated. Then neutralized with 1M HCl and extracted with dichloromethane. The dichloromethane solution was dried and concentrated. The residue was purified by silica gel chromatography (87% CH2Cl2/13% methanol) to afford 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2-(diethylamino)butanoic acid (0.04 g, 55%).

reactant | Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}phenoxy)-2-(diethylamino)butanoate | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)OC)N(CC)CC)C=C1)C)C1=CC=C(C=C1)Cl | C34H40ClN3O5
reactant | potassium hydroxide | 2 ml, 0.04 g | [OH-].[K+]
solvent | tetrahydrofuran methanol | 6 ml | O1CCCC1.CO
product | 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2-(diethylamino)butanoic acid | 0.04 g, 55% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)N(CC)CC)C=C1)C)C1=CC=C(C=C1)Cl | C33H38ClN3O5
